US06002008
4(4-Ethylphenylamino)-6,7-dimethoxyquinoline-3-carbonitrile
A mixture of 0.248 g (1 mmol)of 4-chloro-6,7-dimethoxy-quinoline-3-carbonitrile, 0.14 ml (1.1 mmol) of 4-ethylaniline, 0.116 g (1 mmol) pyridine hydrochloride and 12 ml of 2-ethoxyethanol was heated in a 138-140° C. oil bath for 1 hour; progress of the reaction was monitored by TLC. When TLC indicated the disappearance of starting material, the reaction was cooled and concentrated in vacuo to a thick oil. To this oil was added 50 ml of water followed by 5 ml of 1M NaHCO3, approximately pH 8. The resulting precipitate was collected, washed with water and diethyl ether, and dried in vacuo at 65° C. to give 0.325 g (97.5%) of the desired product as light cream crystals. MP 248-250° C.; : mass spectrum (electrospray, m/e,): 333.1462.

reactant | 4-chloro-6,7-dimethoxy-quinoline-3-carbonitrile | 1 mmol, 0.248 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 4-ethylaniline | 1.1 mmol, 0.14 ml | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | pyridine hydrochloride | 1 mmol, 0.116 g | Cl.N1=CC=CC=C1
reactant | 2-ethoxyethanol | 12 ml | C(C)OCCO | C4H10O2
product | 4(4-Ethylphenylamino)-6,7-dimethoxyquinoline-3-carbonitrile | 0.325 g, 97.5% | C(C)C1=CC=C(C=C1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C20H19N3O2
